US08877742B2
1-(3-bromophenyl)pyrrolidin-2-one
To a stirring solution of 1,3-dibromobenzene (3 g, 12.72 mmol) in 1,4-dioxane (100 mL) was added 2-pyrrolidinone (0.975 mL, 12.72 mmol), palladium(II) acetate (0.143 g, 0.636 mmol), xantphos (0.736 g, 1.272 mmol) and cesium carbonate (8.29 g, 25.4 mmol). The mixture was then heated at 100° C. overnight. The reaction mixture was diluted with ethyl acetate (100 mL). The organic phase was washed with water (100 mL). The organic phase was collected, and the aqueous phase further extracted with ethyl acetate (2×50 mL). The organic phases were combined, dried over MgSO4, filtered and removed solvent under vacuo. The residue was purified on silica gel, eluting with a gradient of 0-40% ethyl acetate in cyclohexane to give the title compound (2.06 g). LCMS (A): m/z (M+H)+ 240/242, C10H10BrNO requires 239/241 (acidic).

reactant | 1,3-dibromobenzene | 12.72 mmol, 3 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | 2-pyrrolidinone | 12.72 mmol, 0.975 mL | N1C(CCC1)=O | C4H7NO
reactant | xantphos | 1.272 mmol, 0.736 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 25.4 mmol, 8.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II) acetate | 0.636 mmol, 0.143 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(3-bromophenyl)pyrrolidin-2-one | 2.06 g | BrC=1C=C(C=CC1)N1C(CCC1)=O | C10H10BrNO
